US06884821B1
Using (5-butyl-2-pyridyl)methanol and 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 3-(3-[(5-butyl-2-pyridyl)methoxy]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid was obtained in the same method as in Example 247).

reactant | (5-butyl-2-pyridyl)methanol | C(CCC)C=1C=CC(=NC1)CO | C10H15NO
reactant | 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | BrCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 3-(3-[(5-butyl-2-pyridyl)methoxy]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid | C(CCC)C=1C=CC(=NC1)COCC=1C=C(C=CC1OC)CC(C(=O)O)OC(C)C | C24H33NO5
